US06288120B1
5-[3-(tert-Butyl-dimethyl-silanyloxy)-propyl]-1H-pyrazole-3-carboxylic acid ethyl ester.
A solution of 7-(tert-butyl-dimethyl-silanyloxy)-2,4-dioxo-heptanoic acid ethyl ester (1.627 g, 51.4 mmol) and hydrazine (17 mL, 55 mmol) in EtOH was heated at reflux for 6 h. The reaction was concentrated in vacuo. Purification by flash chromatography (6:4 hexanes:EtOAc) provided the title compound (333 mg). 1H NMR (400 MHz, CDCl3) δ 6.64 (s, 1H), 4.37 (q, 2H), 3.67 (t, 2H), 2.85 (t, 2H), 1.88 (m, 2H), 1.38 (t, 3H), 0.88 (s, 9H), 0.05 (s, 6H); MS 313 (M+1).

reactant | 7-(tert-butyl-dimethyl-silanyloxy)-2,4-dioxo-heptanoic acid ethyl ester | 51.4 mmol, 1.627 g | C(C)OC(C(CC(CCCO[Si](C)(C)C(C)(C)C)=O)=O)=O | C15H28O5Si
reactant | hydrazine | 55 mmol, 17 mL | NN | H4N2
solvent | EtOH | CCO | C2H6O
product | 5-[3-(tert-Butyl-dimethyl-silanyloxy)-propyl]-1H-pyrazole-3-carboxylic acid ethyl ester | 333 mg | C(C)OC(=O)C1=NNC(=C1)CCCO[Si](C)(C)C(C)(C)C | C15H28N2O3Si
